US08455665B2
(S)-3-((R)-1-Hydroxy-2-methylsulfanylethyl)pyrrolidine-1-carboxylic Acid t-Butyl Ester
Sodium methyl mercaptide (296 mg, 4.2 mmol) was dissolved in THF (1.0 mL), and the mixture was stirred for 10 minutes at room temperature. (S)—(R)-3-Oxiranylpyrrolidine-1-carboxylic acid t-butyl ester (300 mg, 1.41 mmol) was dissolved in THF (0.4 mL) and added to the mixture. The resulting solution was placed in a microwave reactor for 30 minutes at 100° C., then cooled to room temperature. Hexanes (3×10 mL) was added, followed by water (10 mL). The organic layer was collected, dried over Na2SO4, filtered, and concentrated. The crude product was purified by column chromatography (0-100% EtOAc in hexanes) to yield the title compound as a clear oil (207 mg).

reactant | Sodium methyl mercaptide | 4.2 mmol, 296 mg | C[S-].[Na+]
reactant | (S)—(R)-3-Oxiranylpyrrolidine-1-carboxylic acid t-butyl ester | 1.41 mmol, 300 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@H]1OC1 | C11H19NO3
reactant | water | 10 mL | O | H2O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | THF | 0.4 mL | C1CCOC1 | C4H8O
product | (S)-3-((R)-1-Hydroxy-2-methylsulfanylethyl)pyrrolidine-1-carboxylic Acid t-Butyl Ester | 207 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@H](CSC)O | C12H23NO3S
